US04900743
4-Methyl-5-methylsulfinyl-3-(2-naphthyl)-4H-1,2,4-triazole
To a stirred, 0° C., solution of 4-methyl-5-methylthio-3-(2-naphthyl)-4H-1,2,4-triazole (4.00 g, 1.57×10-2 mole) and CH2Cl2 (110 ml) was added portionwise m-chloroperoxybenzoic acid (3.38 g, 1.57×10-2 mole). After stirring overnight at room temperature the reaction was diluted with CH2Cl2 (200 ml), washed two times with saturated aqueous NaHCO3 and one time with saturated aqueous NaCl, and dried over anhydrous N2SO4. The drying agent was removed by filtration and the filtrate was evaporated at reduced pressure leaving an off-white solid which was purified by flash chromatography (4% CH3OH/CH2Cl2). Crystallization from toluene afforded small colorless plates: 2.5 g (59%), mp 224°-226° C.

reactant | 4-methyl-5-methylthio-3-(2-naphthyl)-4H-1,2,4-triazole | 1.57×10-2 mole, 4.00 g | CN1C(=NN=C1SC)C1=CC2=CC=CC=C2C=C1 | C14H13N3S
reactant | m-chloroperoxybenzoic acid | 1.57×10-2 mole, 3.38 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 110 ml | C(Cl)Cl | CH2Cl2
product | 4-Methyl-5-methylsulfinyl-3-(2-naphthyl)-4H-1,2,4-triazole | CN1C(=NN=C1S(=O)C)C1=CC2=CC=CC=C2C=C1 | C14H13N3OS
